US04326078
210 g p-chloronitrobenzene, 600 g water and 180 g sodium hydroxide (corresponding to a 23.1 wt. % aqueous solution), 0.3 g 2,3-dichloronaphthoquinone-1,4, 350 g n-hexane and 0.40 g platinum on activated charcoal (5% Pt) (the quantitative ratio of platinum metal to p-chloronitrobenzene used being 0.000095:1) are hydrogenated by the use of a gas sparger at a hydrogen pressure of 6 bars and at 60° to 65° C. The reduction is completed after 4 to 5 hours. The procedure set forth in Example 1 is followed, 151 g 4,4'-dichlorohydrazobenzene with a melting point of 120° to 121° C. and a purity of 98.5% being obtained, which corresponds to a yield of 88.5% of theory. The possible byproduct p-chloroaniline is not detectable.

reactant | p-chloronitrobenzene | 210 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | water | 600 g | O | H2O
reactant | sodium hydroxide | 180 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | platinum on activated charcoal | 0.40 g | [Pt] | Pt
catalyst | 2,3-dichloronaphthoquinone-1,4 | 0.3 g | C1=CC=C2C(=C1)C(=O)C(=C(C2=O)Cl)Cl | C10H4Cl2O2
solvent | n-hexane | 350 g | CCCCCC | C6H14
product | 4,4'-dichlorohydrazobenzene | 151 g, yield of 88.5% | ClC1=CC=C(C=C1)NNC1=CC=C(C=C1)Cl | C12H10Cl2N2
